US09212190B2
To a solution of 2-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]amino]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetonitrile (120 mg, 0.30 mmol, 1.00 equiv) in methanol (8 mL) was added LiOR.H2O (37.8 mg, 0.90 mmol, 3.00 equiv) and H2O2 (30%, 0.5 mL) in an ice-water bath. The resulting solution was stirred for 2 h at room temperature and diluted with DCM (30 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with DCM/MeOH (20:1) to give 100 mg (80%) of 2-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]amino]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide as a white solid. MS (ES): m/z 416 (M+H)+. 1H NMR (400 MHz, CD3OD): δ 8.23 (s, 1H), 4.11-4.20 (m, 1H), 3.82-3.89 (m, 1H), 3.72 (s, 4H), 3.09-3.17 (m, 1H), 2.93-2.99 (m, 1H), 2.70-2.82 (m, 1H), 2.65 (s, 4H), 2.47 (s, 2H), 2.27-2.35 (m, 2H), 2.11-2.19 (m, 2H), 2.05-2.10 (m, 2H), 1.40-1.67 (m, 4H).

reactant | 2-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]amino]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetonitrile | 0.30 mmol, 120 mg, 1.00 equiv | N1(CCOCC1)C1CCC(CC1)NC=1N=CN=C2SC=3CC[C@@H](C3C12)CC#N | C21H27N5OS
reactant | H2O2 | 0.5 mL | OO | H2O2
solvent | methanol | 8 mL | CO | CH4O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]amino]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide | 100 mg, 80% | N1(CCOCC1)C1CCC(CC1)NC=1N=CN=C2SC=3CC[C@@H](C3C12)CC(=O)N | C21H29N5O2S
